US03988333
3.8 g of triethyl aluminum were dissolved in 70 ml of tetrahydrofuran. Under ice cooling, a solution of 10.8 g of o-acetoxybenzoate dissolved in 200 ml of tetrahydrofuran was added dropwise little by little to the above solution in nitrogen gas current. After completion of the dropwise addition, the temperature of the mixture was returned to room temperature, and it was thrown into a great quantity of water. The precipitated crude crystals were recovered by filtration and dried under reduced pressure to yield 10 g of white aluminum tris-(o-acetoxybenzoate) having a molecular weight of about 545 and an average degree of polymerization of about 1. The infrared absorption spectrum of the resulting salt was as follows:

reactant | triethyl aluminum | 3.8 g | C(C)[Al](CC)CC
reactant | o-acetoxybenzoate | 10.8 g | C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1
reactant | water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | aluminum tris-(o-acetoxybenzoate) | 10 g | C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.[Al+3] | InChI=1S/3C9H8O4.Al/c3*1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h3*2-5H,1H3,(H,11,12);/q;;;+3/p-3
